US07074798B2
4-[7-(2-Chlorophenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
8-Chloro-7-(2-chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione (142 mg) and piperazine-1-carboxylic acid tert-butyl ester (500 mg) were mixed, and the reaction mixture was stirred at 150° C. for 4 hours, diluted with ethyl acetate, and washed with water. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 143 mg of the title compound from a fraction eluted with hexane-ethyl acetate (2:3).

reactant | 8-Chloro-7-(2-chlorophenyl)-1,3-dimethyl-3,7-dihydropurine-2,6-dione | 142 mg | ClC1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)Cl)=O)C)=O)C | C13H10Cl2N4O2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[7-(2-Chlorophenyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 143 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)Cl)=O)C)=O)C | C22H27ClN6O4
